Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
___: Repair of strangulated incarcerated
ventral hernia and resection of omentum.

 
History of Present Illness:
HPI: ___ F w/ hx of multiple panniculectomies due to
panniculitis and known non-reducible ventral hernia, now
transferred from ___ with incarcerated ventral hernia
resulting in small bowel obstruction demonstrated on CT scan.
Reportedly, she has had the ventral hernia for ___ years. She and
her PCP decided to manage it conservatively since it was not
causing her any problems. Three days ago she began having
worsening pain at the site of the hernia, along with multiple
episodes (at least 12 in the last 3 days) of NBNB emesis. She 
has
been unable to tolerate a regular diet due to the
nausea/vomiting. She last had a bowel movement and passed flatus
3 days ago. 

 
Past Medical History:
PMH:
-CAD s/p CABG x4 in ___ 
-HTN
-HLD
-Type II DM
-Chronic panniculitis

PSH:
-CABG x4 in ___ ___)
-Left hip fx pinned ___ (___)
-Paniculectomies x4 (Last one at ___ by Dr. ___ in ___
-Kidney biopsy in ___ (no pathology found)

 
Social History:
___
Family History:
___: 
-Father: CAD->CABG, ?lymphoma
-Mother: ___ years old, healthy
 
Physical Exam:
Admission:
PHYSICAL EXAM:
Vitals: T:98.2, HR:81, BP:131/55, RR:18, O2Sat:95% RA 
GEN: A&Ox3, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, no m/s3/s4
PULM: clear to auscultation
ABD: protrusion of hernia contents at RLQ, ~9 cm from lateral
panniculectomy incision, unable to reduce, tender surrounding 
the
hernia although no erythema or skin breakdown. Otherwise abdomen
is soft, obese, non distended, no guarding, no rebound
tenderness. 
Ext: No ___ edema, ___ warm and well perfused

On Discharge:
PHYSICAL EXAM:
Vitals: 98.0, 151/95, 78, 20, 99%ra
GENERAL APPEARANCE: Well developed, well nourished, alert and 
cooperative, and appears to be in no acute distress
HEENT: normocephalic. PERRLA. Mucus membranes moist. 
NECK: Neck supple, non-tender without lymphadenopathy, masses or 
thyromegaly.
CARDIAC: Normal S1 and S2. No S3, S4 or murmurs. Rhythm is 
regular.
LUNGS: Clear to auscultation without rales, rhonchi, wheezing or 
diminished breath sounds. NARD.
ABDOMEN: Soft, obese. + bowel sounds. Nontender, no guarding, no 
reboundness. Transverse hernia repair incision with staples open 
to air, faint blanchable erythema and induration around 
incision. Bilateral panniculitis wounds with dressings clean, 
dry, intact.  
EXTREMITIES: There is no peripheral edema, cyanosis or pallor. 
Extremities are warm and well perfused.

 
Pertinent Results:
___ 09:15AM BLOOD WBC-11.7* RBC-3.00* Hgb-9.1* Hct-28.2* 
MCV-94 MCH-30.3 MCHC-32.2 RDW-14.7 Plt ___
___ 09:50PM BLOOD WBC-14.6* RBC-3.35* Hgb-10.4* Hct-31.7* 
MCV-95 MCH-31.0 MCHC-32.7 RDW-14.8 Plt ___
___ 09:50PM BLOOD Neuts-71.2* ___ Monos-6.8 Eos-1.4 
Baso-0.4
___ 09:15AM BLOOD Plt ___
___ 10:13PM BLOOD ___ PTT-32.8 ___
___ 09:50PM BLOOD Plt ___
___ 07:55AM BLOOD Glucose-95 UreaN-35* Creat-2.0* Na-135 
K-3.7 Cl-103 HCO3-24 AnGap-12
___ 06:00AM BLOOD Glucose-69* UreaN-39* Creat-2.2* Na-138 
K-3.9 Cl-102 HCO3-24 AnGap-16
___ 09:15AM BLOOD Glucose-67* UreaN-44* Creat-2.3* Na-140 
K-4.1 Cl-104 HCO3-25 AnGap-15
___ 07:55AM BLOOD Calcium-8.1* Phos-4.1 Mg-2.0
___ 06:00AM BLOOD Calcium-8.0* Phos-4.8* Mg-2.2
___ 09:15AM BLOOD Calcium-8.3* Phos-5.1* Mg-1.6

IMAGING:
ABDOMINAL CT: 
(___, read by ___ radiology): 
SBO with entrapped bowel loop in hernia sac with bowel wall 
edema and stranding mesenteric fat.

 
Brief Hospital Course:
This is a ___ year old female with a known non-reducible ventral 
hernia, transferred from ___ with an incarcerated 
ventral hernia resulting in small bowel obstruction demonstrated 
on CT scan. In the ED, she had complained of abdominal pain, 
constipation, and non-bloody, non-bilious emesis x3 days. The 
patient was admitted to the Acute Care Trauma Surgery team and 
underwent a repair of strangulated incarcerated ventral hernia 
and resection of omentum on ___. She tolerated the procedure 
well with minimal blood loss and was transferred to the floor 
post-operatively.  

On POD#2 the patient's foley catheter was discontinued and she 
was able to void without difficulty. She was getting out of bed 
and walking short distances with assist. She remained NPO with 
an NGT until she reported passing flatus, on POD#3. Her diet was 
then advanced from sips to clears. She reported some transient 
nausea and emesis but was otherwise stable. She was taking in 
enough by mouth and her IV fluid was stopped. On POD#4 erythema 
was noted around incision and the patient was started on a 
course of cephalexin. She had been advanced to a regular diet 
but reported she had emesis after eating. On POD#5 a KUB was 
obtained to rule out an ileus or obstruction due to continued 
emesis. The X-ray did not show any concerning findings. The 
patien't home reglan was restarted and she was able to eat a 
regular diet without any nausea or vomiting. She had a large 
bowel movement and reported feeling better.  On POD#6 the 
patient was afebrile and her vitals were all stable. Her pain 
was well controlled with oral agents, she was tolerating a 
regular diet, and the erythema around her incision was receding. 
She was discharged home with ___ and home ___ she was instructed 
to finish her 5-day course of antibiotics and had follow-up 
scheduled for 2 weeks with her PCP and with the ___ clinic. 
 
Medications on Admission:
MEDICATIONS:
-Lisinopril 20mg daily
-Metoprolol 25mg daily
-Lasix 20mg daily
-Reglan 5mg prn (before meals and qHS)
-Ondansetron 4mg q8h prn nausea
-Metformin (recently discontinued)
-Vitamin B
-Folic acid
-Lactobacillus

 
Discharge Medications:
1. Cephalexin 500 mg PO Q8H 
last dose ___ 
RX *cephalexin 500 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*16 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
3. Furosemide 20 mg PO DAILY 
4. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
Please avoid driving, drinking alcohol, or operating heavy 
machinery while taking this 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*20 Tablet Refills:*0
5. Lisinopril 20 mg PO DAILY 
6. Metoclopramide 5 mg PO TID nausea with meals 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Senna 1 TAB PO BID 
Hold for loose stools 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1.) incarcerated ventral hernia
2.) small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms ___,
You were admitted to the hospital with complaints of abdominal 
pain. You were found to have a small bowel obstruction caused by 
a strangulated hernia and underwent hernia repair on ___. 
You tolerated the operation well but experienced some nausea and 
vomiting post operatively. There was also noted to be some 
redness around your incision so you were started on some oral 
antibiotics. You are now tolerating a regular diet and your pain 
is well controlled on oral agents. You are ready to return home 
to continue your recovery.

 
Followup Instructions:
___